US04668660
9.4 g (0.04 mole) of 2-chloromethyl-2-(4-chlorophenoxymethyl)oxirane are added dropwise to a mixture of 13.6 g (0.2 mole) of 1,2,4-triazole and 13.8 g (0.1 mole) of potassium carbonate in 200 ml of acetone with stirring. The mixture is allowed to stir at room temperature for 15 hours and then under reflux for 22 hours. The reaction mixture is then filtered cold and the filtrate is evaporated in vacuo. The oily residue is dissolved in chloroform, and the solution is washed with water, dried over sodium sulphate and purified by chromatography (silica gel 60, Merck, chloroform/methanol=20:1). 5.8 g (43%) of theory) of 2-(4-chlorophenoxymethyl)-1,3-di(1,2,4-triazol-1-yl)-2-hydroxypropane of melting point 99° C. are obtained.

reactant | 2-chloromethyl-2-(4-chlorophenoxymethyl)oxirane | 0.04 mole, 9.4 g | ClCC1(OC1)COC1=CC=C(C=C1)Cl | C10H10Cl2O2
reactant | 1,2,4-triazole | 0.2 mole, 13.6 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.1 mole, 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-(4-chlorophenoxymethyl)-1,3-di(1,2,4-triazol-1-yl)-2-hydroxypropane | ClC1=CC=C(OCC(CN2N=CN=C2)(CN2N=CN=C2)O)C=C1 | C14H15ClN6O2
